US07935697B2
Solubility Experiments for KX2-391 Salts
Solubility experiments were also performed using pH 2.0 phosphate buffer and DI water pH 6.9 and KX2-391•MSA, Form A. Each vial was filled with approximately 50 mg of KX2-391•MSA, Form A and 100 μL aliquots of the corresponding solvent was added until complete dissolution was observed, followed by stirring at room temperature for one and five days. The solids obtained were isolated by filtration, dried under vacuum at room temperature and analyzed by HPLC. The initial HPLC purity of KX2-391•MSA, Form A was 99.4 (% area). The solubility by HPLC of KX2-391•MSA, Form A in phosphate buffer/RT was >500 mg/mL and HPLC purity was measured to be 99.4. The solubility by HPLC of KX2-391•MSA, Form A in DI H2O/RT was >500 mg/mL and HPLC purity was measured to be 99.4.

reactant | phosphate | pH 2.0 | P(=O)([O-])([O-])[O-]
reactant | 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide mesylate | S(C)(=O)(=O)O.O1CCN(CC1)CCOC1=CC=C(C=C1)C=1C=CC(=NC1)CC(=O)NCC1=CC=CC=C1
reactant | 2-(5-(4-(2-morpholinoethoxy)phenyl)pyridin-2-yl)-N-benzylacetamide mesylate | approximately 50 mg | S(C)(=O)(=O)O.O1CCN(CC1)CCOC1=CC=C(C=C1)C=1C=CC(=NC1)CC(=O)NCC1=CC=CC=C1
solvent | DI water | pH 6.9 | O | H2O
product | KX2-391 | C=1C=CC(=CC1)CNC(=O)CC=2C=CC(=CN2)C=3C=CC(=CC3)OCCN4CCOCC4 | C26H29N3O3
